US08067445B2
Step 1: [3-Chloro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 33, Step 2, using the following starting materials: (3-bromo-5-chloro-phenyl)-acetic acid ethyl ester and bis(pinacolato)diboron.

reactant | (3-bromo-5-chloro-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC(=C1)Cl)Br)=O | C10H10BrClO2
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | [3-Chloro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)=O | C16H22BClO4
